* /Users/league/Documents/LTspice/Draft1.asc
V1 N001 0 9V
R1 D1 N001 166R
D1 D1 D1_2 WP710A10QBC-2
R2 D2 D1_2 166R
D2 D2 0 WP710A10QBC-2
.model D D
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.dio
.lib WP710A10QBC.SP3
.tran 0 1ms 0 1us startup
.backanno
.end
