*
V1 N001 0 9V
R1 N001 Vb 175K
Q1 N001 Vb N002 0 2N2222
R2 Vb 0 175K
Rt Vb 0 {Rp}
R3 N002 VLED 47.5
D1 VLED 0 WP710A10QBC-2
.model D D
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.bjt
.lib WP710A10QBC.SP3
.tran 0 1ms 0 1us startup
.step param Rp 80K 800K 20K
.backanno
.end
